US04753941
A mixture composed of 3-aminobenzoic acid (20 g), 1 M aqueous sodium bicarbonate solution (730 cc) and ethyl chloroformate (14 cc) is left with stirring for 30 minutes at 5° C. 2.5 N hydrochloric acid (300 cc) is then added to the reaction mixture. The precipitate formed is separated by filtration, washed with water (3×200 cc) and dried at 40° C. under reduced pressure (0.07 kPa). 3-Ethoxycarbonylaminobenzoic acid (25 g), m.p. 198° C., is thereby obtained.

reactant | 3-aminobenzoic acid | 20 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | sodium bicarbonate | 1 M, 730 cc | C([O-])(O)=O.[Na+]
reactant | ethyl chloroformate | 14 cc | ClC(=O)OCC | C3H5ClO2
solvent | hydrochloric acid | 2.5 N, 300 cc | Cl | ClH
product | 3-Ethoxycarbonylaminobenzoic acid | 25 g | C(C)OC(=O)NC=1C=C(C(=O)O)C=CC1 | C10H11NO4
